US05049564
Preparation of 2-Oxo-3-carboethoxy-4-(2-bromo-5-methoxyphenyl)butanoic acid, ethyl ester
Potassium t-butoxide (6.72 g) was suspended in 30 ml of anhydrous ether and cooled to 0° C. A solution of 14.35 g of ethyl 3-(2-bromo-5-methoxyphenyl)propionate and 10.95 g diethyl oxalate in 10 ml ether was added dropwise over 15 min. After 2 h at 25° C., the reaction was poured into 100 ml H2O and the aqueous layer was separated, acidified to pH 1 and extracted with ether. The ether layer was dried (MgSO4) and the solvent was evaporated to yield 17.48 g of the desired product as a colorless oil (90%). NMR (CDCl3) δ 1.20 (t, 3H), 1.35 (t, 3H), 3.32 (dd, 2H), 3.76 (s, 3H), 4.18 (q, 2H), 4.32 (q, 2H), 4.53 (t, 1H), 6.67 (dd, 1H), 6.80 (d, 1H), 7.40 (d, 1H).

reactant | Potassium t-butoxide | 6.72 g | CC(C)([O-])C.[K+]
reactant | ethyl 3-(2-bromo-5-methoxyphenyl)propionate | 14.35 g | BrC1=C(C=C(C=C1)OC)CCC(=O)OCC | C12H15BrO3
reactant | diethyl oxalate | 10.95 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | H2O | 100 ml | O | H2O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 2-Oxo-3-carboethoxy-4-(2-bromo-5-methoxyphenyl)butanoic acid, ethyl ester | 17.48 g, 90% | O=C(C(=O)OCC)C(CC1=C(C=CC(=C1)OC)Br)C(=O)OCC | C16H19BrO6
